US05376634
To a solution of L-tyrosine methyl ester hydrochloride (1 g) in water (1.5 ml) was added sodium bicarbonate (0.363 g) under ice-cooling and stirred for 10 minutes, and then acetonitrile (7 ml), 37% formaldehyde aqueous solution (0.637 ml) and sodium cyanoborohydride (0.182 g) was added thereto at -5° C. The mixture was stirred for 2 hours at -5° C. The resultant insoluble material was filtered off, and the filtrate was extracted with ethyl acetate. The organic layer was separated and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give N,N-dimethyl-L-tyrosine methyl ester (0.21 g).

reactant | L-tyrosine methyl ester hydrochloride | 1 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | sodium bicarbonate | 0.363 g | C([O-])(O)=O.[Na+]
reactant | formaldehyde | 0.637 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.182 g | C(#N)[BH3-].[Na+]
solvent | water | 1.5 ml | O | H2O
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | N,N-dimethyl-L-tyrosine methyl ester | 0.21 g | COC([C@@H](N(C)C)CC1=CC=C(C=C1)O)=O | C12H17NO3
